US07312217B2
2,4-Diamino-6-(bromomethyl)pteridine (2) hydrobromide salt from (1)
A suspension of 5 mmol 2,4,5,6-tetraminopyrimidine dibromide in 50 ml methanol was treated with a solution of 7.5 mmol β-bromopyruvaldoxime in 10 ml of methanol at reflux temperature for 2 h. The 2,4-diamino-6-(bromomethyl)pteridine was collected after neutralization with concentrated NH3 at room temperature, washed with methanol, ether and dried at 100° C. in an oven. 1H NMR (250 MHz, ppm, DMSO-d6), δ 8.84 (s, 1H, C7—H). The yield was 88%.

reactant | 2,4,5,6-tetraminopyrimidine dibromide | 5 mmol | [Br-].[Br-].NC1=NC(=C(C(=N1)N)N)N
reactant | β-bromopyruvaldoxime | 7.5 mmol | BrCC(C=NO)=O | C3H4BrNO2
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2,4-Diamino-6-(bromomethyl)pteridine | yield was 88% | NC1=NC2=NC=C(N=C2C(=N1)N)CBr | C7H7BrN6
